* Created by KLayout
*** My special header ***

* cell TOP
* pin ibn40u
* pin vb
* pin vdd
* pin vddbuf
* pin vinn
* pin vinp
* pin vout
* pin vss
* pin xtaln
* pin xtalp
.SUBCKT TOP ibn40u vb vdd vddbuf vinn vinp vout vss xtaln xtalp
* cell instance $1 r0 *1 156.85,-193.15
X$1 vdd xtaln xtalp \$24 \$18 vss XTALOSC
* cell instance $57 r0 *1 520.8,-266.25
X$57 ibn40u vdd \$13 vss bias40u
* cell instance $263 r0 *1 774.75,-251.95
X$263 \$13 \$19 vout vddbuf vss OBUF_SSF
* cell instance $265 r0 *1 442.15,-344.45
X$265 vdd vinp vinn \$I265 \$I266 ibn40u vb vss fully_diff_amp
* device instance $1 r0 *1 399.15,-15.1 PMOS
XM$1 vdd vb \$264.ifp vdd PMOS L=2u W=45u AS=96.75p AD=67.5p PS=76.1u PD=51u
* device instance $3 r0 *1 409.15,-15.1 PMOS
XM$3 vdd vb \$19 vdd PMOS L=2u W=45u AS=67.5p AD=96.75p PS=51u PD=76.1u
* device instance $5 m90 *1 409.15,-210.95 NMOS
XM$5 vss ibn40u \$I270 vss NMOS L=2u W=20u AS=43p AD=43p PS=38.6u PD=38.6u
* device instance $7 r0 *1 431.95,-94.35 NMOS
XM$7 \$I268 \$24 \$19 vss NMOS L=2u W=20u AS=43p AD=30p PS=38.6u PD=26u
* device instance $9 r0 *1 441.95,-94.35 NMOS
XM$9 \$I268 \$18 \$264.ifp vss NMOS L=2u W=20u AS=30p AD=43p PS=26u PD=38.6u
* device instance $11 r0 *1 366.35,-94.35 NMOS
XM$11 \$I269 \$18 \$19 vss NMOS L=2u W=20u AS=43p AD=30p PS=38.6u PD=26u
* device instance $13 r0 *1 376.35,-94.35 NMOS
XM$13 \$I269 \$24 \$264.ifp vss NMOS L=2u W=20u AS=30p AD=43p PS=26u PD=38.6u
* device instance $15 r0 *1 399.15,-160.35 NMOS
XM$15 \$I270 \$I265 \$I269 vss NMOS L=2u W=20u AS=43p AD=30p PS=38.6u PD=26u
* device instance $17 r0 *1 409.15,-160.35 NMOS
XM$17 \$I270 \$I266 \$I268 vss NMOS L=2u W=20u AS=30p AD=43p PS=26u PD=38.6u
.ENDS TOP

* cell fully_diff_amp
* pin vdd
* pin vinp
* pin vinn
* pin von
* pin vop
* pin vt
* pin vb
* pin vss
.SUBCKT fully_diff_amp vdd vinp vinn von vop vt vb vss
* device instance $1 r0 *1 100,-32.1 PMOS
XM$1 vdd vinn vinn vdd PMOS L=8u W=34.4u AS=73.96p AD=73.96p PS=60.2u PD=60.2u
* device instance $3 r0 *1 100,-65.15 NMOS
XM$3 vss vinn vinn vss NMOS L=8u W=12.6u AS=27.09p AD=27.09p PS=27.5u PD=27.5u
* device instance $5 m90 *1 -171,-32.1 PMOS
XM$5 vdd vinp vinp vdd PMOS L=8u W=34.4u AS=73.96p AD=73.96p PS=60.2u PD=60.2u
* device instance $7 m90 *1 -171,-65.15 NMOS
XM$7 vss vinp vinp vss NMOS L=8u W=12.6u AS=27.09p AD=27.09p PS=27.5u PD=27.5u
* device instance $9 r0 *1 -43,70.65 PMOS
XM$9 vdd vb von vdd PMOS L=2u W=45u AS=96.75p AD=67.5p PS=76.1u PD=51u
* device instance $11 r0 *1 -33,70.65 PMOS
XM$11 vdd vb vop vdd PMOS L=2u W=45u AS=67.5p AD=96.75p PS=51u PD=76.1u
* device instance $13 m90 *1 -33,-44.2 NMOS
XM$13 vss vt \$25 vss NMOS L=2u W=20u AS=43p AD=43p PS=38.6u PD=38.6u
* device instance $15 r0 *1 -193.1,30.35 PMOS
XM$15 \$I229 \$I229 von vdd PMOS L=8u W=45u AS=96.75p AD=67.5p PS=76.1u PD=51u
* device instance $17 r0 *1 -171.1,30.35 PMOS
XM$17 \$I229 \$I229 vinp vdd PMOS L=8u W=45u AS=67.5p AD=96.75p PS=51u PD=76.1u
* device instance $19 m90 *1 122.1,30.35 PMOS
XM$19 \$I230 \$I230 vop vdd PMOS L=8u W=45u AS=96.75p AD=67.5p PS=76.1u PD=51u
* device instance $21 m90 *1 100.1,30.35 PMOS
XM$21 \$I230 \$I230 vinn vdd PMOS L=8u W=45u AS=67.5p AD=96.75p PS=51u PD=76.1u
* device instance $23 r0 *1 -43,6.4 NMOS
XM$23 \$25 vinp von vss NMOS L=2u W=20u AS=43p AD=30p PS=38.6u PD=26u
* device instance $25 r0 *1 -33,6.4 NMOS
XM$25 \$25 vinn vop vss NMOS L=2u W=20u AS=30p AD=43p PS=26u PD=38.6u
.ENDS fully_diff_amp

* cell bias40u
* pin ib40u
* pin vdd
* pin is40u
* pin vss
.SUBCKT bias40u ib40u vdd is40u vss
* device instance $1 r0 *1 10.85,40.4 NMOS
XM$1 vss ib40u ib40u vss NMOS L=2u W=20u AS=43p AD=30p PS=38.6u PD=26u
* device instance $3 r0 *1 20.85,40.4 NMOS
XM$3 vss ib40u \$7 vss NMOS L=2u W=20u AS=30p AD=43p PS=26u PD=38.6u
* device instance $5 r0 *1 10.85,104.65 PMOS
XM$5 vdd \$7 \$7 vdd PMOS L=2u W=45u AS=96.75p AD=67.5p PS=76.1u PD=51u
* device instance $7 r0 *1 20.85,104.65 PMOS
XM$7 vdd \$7 is40u vdd PMOS L=2u W=45u AS=67.5p AD=96.75p PS=51u PD=76.1u
.ENDS bias40u

* cell XTALOSC
* pin VDD
* pin XTALN
* pin XTALP
* pin VON
* pin VOP
* pin VSS
.SUBCKT XTALOSC VDD XTALN XTALP VON VOP VSS
* cell instance $7 m0 *1 76.6,121.3
X$7 \$22 VON VDD VSS INV_X4
* cell instance $8 m0 *1 60.1,121.3
X$8 \$21 VDD \$22 VSS INV_X2
* cell instance $9 m0 *1 98.6,121.3
X$9 VDD VON VOP VSS INV_X1
* cell instance $10 m0 *1 49.1,121.3
X$10 VDD \$20 \$21 VSS INV_X1
* cell instance $11 r0 *1 98.6,8.7
X$11 VDD VOP VON VSS INV_X1
* cell instance $12 r0 *1 49.1,8.7
X$12 VDD \$16 \$17 VSS INV_X1
* cell instance $13 r0 *1 32.6,8.7
X$13 VDD XTALP \$16 VSS INV_X1
* cell instance $14 r0 *1 60.1,8.7
X$14 \$17 VDD \$18 VSS INV_X2
* cell instance $15 m0 *1 32.6,121.3
X$15 XTALP VDD \$20 VSS BUF_X1
* cell instance $17 r0 *1 76.6,8.7
X$17 \$18 VOP VDD VSS INV_X4
* device instance $1 r0 *1 23.5,48.3 PMOS
XM$1 VDD XTALN XTALP VDD PMOS L=10u W=12u AS=33.6p AD=33.6p PS=29.6u PD=29.6u
* device instance $2 r0 *1 23.5,19.9 NMOS
XM$2 VSS XTALN XTALP VSS NMOS L=10u W=4u AS=11.2p AD=11.2p PS=13.6u PD=13.6u
.ENDS XTALOSC

* cell OBUF_SSF
* pin IBN40U
* pin VIN
* pin VOUT
* pin VDD
* pin VSS
.SUBCKT OBUF_SSF IBN40U VIN VOUT VDD VSS
* device instance $1 r0 *1 -24.4,79.7 NMOS
XM$1 VOUT VIN \$17 VSS NMOS L=1u W=320u AS=493p AD=493p PS=428.6u PD=428.6u
* device instance $33 r0 *1 14.4,50.9 NMOS
XM$33 VSS VSS VSS VSS NMOS L=2u W=120u AS=232p AD=284p PS=206.4u PD=256.8u
* device instance $34 r0 *1 19.4,50.9 NMOS
XM$34 VSS \$1 VOUT VSS NMOS L=2u W=640u AS=960p AD=960p PS=832u PD=832u
* device instance $51 r0 *1 14.4,30.1 NMOS
XM$51 \$1 \$1 VSS VSS NMOS L=2u W=20u AS=56p AD=30p PS=51.2u PD=26u
* device instance $106 m0 *1 -24.6,-11.5 NMOS
XM$106 VSS IBN40U \$6 VSS NMOS L=2u W=160u AS=240p AD=240p PS=208u PD=208u
* device instance $111 m0 *1 -29.6,9.3 NMOS
XM$111 IBN40U IBN40U VSS VSS NMOS L=2u W=20u AS=56p AD=30p PS=51.2u PD=26u
* device instance $129 m0 *1 14.4,141.9 PMOS
XM$129 VDD VDD VDD VDD PMOS L=2u W=120u AS=232p AD=284p PS=206.4u PD=256.8u
* device instance $130 m0 *1 19.4,141.9 PMOS
XM$130 VDD \$17 VOUT VDD PMOS L=2u W=640u AS=960p AD=960p PS=832u PD=832u
* device instance $201 r0 *1 -40,204.3 PMOS
XM$201 \$1 \$6 VDD VDD PMOS L=2u W=20u AS=56p AD=30p PS=51.2u PD=26u
* device instance $202 r0 *1 -35,204.3 PMOS
XM$202 VDD \$6 \$17 VDD PMOS L=2u W=160u AS=240p AD=240p PS=208u PD=208u
* device instance $207 r0 *1 -40,183.5 PMOS
XM$207 \$6 \$6 VDD VDD PMOS L=2u W=20u AS=56p AD=30p PS=51.2u PD=26u
.ENDS OBUF_SSF

* cell BUF_X1
* pin A
* pin vdd
* pin Y
* pin gnd
.SUBCKT BUF_X1 A vdd Y gnd
* device instance $1 r0 *1 6.1,44.8 PMOS
XM$1 \$2 A vdd vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $2 r0 *1 10.1,44.8 PMOS
XM$2 vdd \$2 Y vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $3 r0 *1 6.1,6.8 NMOS
XM$3 \$2 A gnd gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $4 r0 *1 10.1,6.8 NMOS
XM$4 gnd \$2 Y gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
.ENDS BUF_X1

* cell INV_X4
* pin A
* pin Y
* pin vdd
* pin gnd
.SUBCKT INV_X4 A Y vdd gnd
* device instance $1 r0 *1 6.1,44.8 PMOS
XM$1 vdd A Y vdd PMOS L=1u W=40.8u AS=74.46p AD=74.46p PS=65.6u PD=65.6u
* device instance $5 r0 *1 6.1,6.8 NMOS
XM$5 gnd A Y gnd NMOS L=1u W=13.6u AS=24.82p AD=24.82p PS=31.6u PD=31.6u
.ENDS INV_X4

* cell INV_X2
* pin A
* pin vdd
* pin Y
* pin gnd
.SUBCKT INV_X2 A vdd Y gnd
* device instance $1 r0 *1 6.1,44.8 PMOS
XM$1 vdd A Y vdd PMOS L=1u W=20.4u AS=43.86p AD=43.86p PS=39.2u PD=39.2u
* device instance $3 r0 *1 6.1,6.8 NMOS
XM$3 gnd A Y gnd NMOS L=1u W=6.8u AS=14.62p AD=14.62p PS=18.8u PD=18.8u
.ENDS INV_X2

* cell INV_X1
* pin vdd
* pin A
* pin Y
* pin gnd
.SUBCKT INV_X1 vdd A Y gnd
* device instance $1 r0 *1 6.1,44.8 PMOS
XM$1 vdd A Y vdd PMOS L=1u W=10.2u AS=28.56p AD=28.56p PS=26u PD=26u
* device instance $2 r0 *1 6.1,6.8 NMOS
XM$2 gnd A Y gnd NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS INV_X1
